US06342598B1
B) 6,9-Bis(carboxymethyl)-11,19-dioxo-3-[2-[[2-[2-[(1-oxooctadecyl)oxy]ethoxy]ethyl]amino]-2-oxoethyl]-15,18-dioxa-3,6,9,12-tetraazahexatriacontanoic acid
N,N-Bis(2-(2,6-dioxo-4-morpholinyl)ethyl]glycine (1.9 g; 5.5 mmol) (commercial product) was added to a solution of octadecanoic acid 2-(2-aminoethoxy)ethyl ester hydrochloride (4.5 g; 11 mmol) and Et3N (1.5 g; 14 mmol) in DMF (150 mL) at 60° C. After 5 min the temperature was decreased to 45° C. After 2.5 h the mixture was cooled to room temperature to give a precipitate that was filtered, washed with acetone/H2O 15/5, then with acetone. The crude was dissolved in acetone and 0.1 N HCl and the solution heated at 50° C. After 10 min the solution was cooled to room temperature to afford a precipitate which was filtered, washed with acetone/H2O 15/5 then with acetone and dried under reduced pressure to give the desired compound (1.7 g; 1.5 mmol). Yield 27%. HPLC: 100% (area %). HPCE: 100% (area). K.F.: 3.11%. Weight loss (120 ° C.): 4.49%. The 1H-NMR, 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | N,N-Bis(2-(2,6-dioxo-4-morpholinyl)ethyl]glycine | 5.5 mmol, 1.9 g | O=C1CN(CC(O1)=O)CCN(CC(=O)O)CCN1CC(OC(C1)=O)=O | C14H19N3O8
reactant | octadecanoic acid 2-(2-aminoethoxy)ethyl ester hydrochloride | 11 mmol, 4.5 g | Cl.NCCOCCOC(CCCCCCCCCCCCCCCCC)=O
reactant | Et3N | 14 mmol, 1.5 g | CCN(CC)CC | C6H15N
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 6,9-Bis(carboxymethyl)-11,19-dioxo-3-[2-[[2-[2-[(1-oxooctadecyl)oxy]ethoxy]ethyl]amino]-2-oxoethyl]-15,18-dioxa-3,6,9,12-tetraazahexatriacontanoic acid | 1.5 mmol, 1.7 g, Yield 27% | C(=O)(O)CN(CCN(CC(=O)O)CC(=O)NCCOCCOC(CCCCCCCCCCCCCCCCC)=O)CCN(CC(NCCOCCOC(CCCCCCCCCCCCCCCCC)=O)=O)CC(=O)O | C58H109N5O14
